US06258833B1
Preparation of 1-Benzyl-4-(3-cyclopentyloxy-4-methoxyphenyl)-3-methylpyrrolidine-3-carboxylic Acid Ethyl Ester
To a stirred solution of N-methoxymethyl-N-(phenylmethyl)trimethylsilylmethylamine (27 g, 113.7 mmol) and (E)-3-(3-cyclopentyloxy-4-methoxyphenyl)-2-methyl-acrylic acid ethyl ester (19 g, 62.4 mmol) in CH2Cl2 (50 mL), cooled to 0° C., was added trifluoroacetic acid (1.0 M in CH2Cl2, 22.8 mL, 22.8 mmol). The reaction mixture was stirred at room temperature for 1 hour, then another molar equivalent of N-methoxymethyl-N-(phenylmethyl)tri-methylsilylmethylamine (14.8 g, 62.4 mmol) added over 10 minutes. Stirring was continued for 3 hours, then the CH2Cl2 was removed under reduced pressure. The residue was dissolved in ethyl acetate and washed with 1.0 N aqueous HCl (2×50 mL), water, 1.0 N aqueous NaOH solution, water, and brine, then dried over Na2SO4, filtered, and concentrated under reduced pressure to provide a pale yellow oil. Chromatography on silica gel (9:1, hexanes:ethyl acetate) provided the product as an amber oil (16.7 g, 61% yield). 1H NMR (300 MHz, CDCl3) δ (ppm); 7.39-7.23 (m, 5H, aromatic), 6.91 (s, 1H, aromatic), 6.78 (m, 2H, aromatic), 4.75 (m, 1H), 4.18 (q, 2H, OEt), 3.86 (m, 1H), 3.81 (s, 3H, OCH3), 3.75 (d, 1H, J=13.2 Hz), 3.62 (d, 1H, J=13.2 Hz), 3.20 (d, 1H, J=9.5 Hz), 3.01 (m, 1H), 2.91 (m, 1H), 2.51 (d, 1H, J=9.5 Hz), 1.93-1.58 (M, 8H, cyclopentyl), 1.28 (t, 3H, OEt), 0.9 (s, 3H, CH3).

reactant | N-methoxymethyl-N-(phenylmethyl)trimethylsilylmethylamine | 113.7 mmol, 27 g | COCN(CC1=CC=CC=C1)C[Si](C)(C)C | C13H23NOSi
reactant | (E)-3-(3-cyclopentyloxy-4-methoxyphenyl)-2-methyl-acrylic acid ethyl ester | 62.4 mmol, 19 g | C(C)OC(\C(=C\C1=CC(=C(C=C1)OC)OC1CCCC1)\C)=O | C18H24O4
reactant | trifluoroacetic acid | 22.8 mmol, 1.0 M, 22.8 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | N-methoxymethyl-N-(phenylmethyl)tri-methylsilylmethylamine | 62.4 mmol, 14.8 g | COCN(CC1=CC=CC=C1)C[Si](C)(C)C | C13H23NOSi
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | 1-Benzyl-4-(3-cyclopentyloxy-4-methoxyphenyl)-3-methylpyrrolidine-3-carboxylic Acid Ethyl Ester | 16.7 g, 61% yield | C(C)OC(=O)C1(CN(CC1C1=CC(=C(C=C1)OC)OC1CCCC1)CC1=CC=CC=C1)C | C27H35NO4
